US08791123B2
(R)-ethyl 5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate (2.13 g, 5.72 mmol) was suspended in EtOH (28.6 mL) and heated at 90° C. for 20 min (homogeneous). 1M aq. LiOH (11.4 mL, 11.4 mmol) was added and the reaction mixture was heated for 15 hours at 90° C. After cooling, the reaction mixture was concentrated, diluted with water and washed with EtOAc to remove any unreacted starting material. The aqueous layer was then acidified to pH 1 using 2N HCl. After extracting with DCM and EtOAc, the combined organic fractions were dried with MgSO4, filtered and concentrated to afford (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (1.82 g, 92.4%) as a light yellow solid. MS (apci) m/z=345.0 (M+H).

reactant | (R)-ethyl 5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | 5.72 mmol, 2.13 g | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)OCC | C19H18F2N4O2
reactant | LiOH | 11.4 mmol, 1M, 11.4 mL | [Li+].[OH-]
solvent | EtOH | 28.6 mL | CCO | C2H6O
product | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 1.82 g, 92.4% | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C17H14F2N4O2
